US07671043B2
1B. 3-Dibenzylamino-cyclobutanecarboxylic acid ethyl ester
Dibenzyl amine (0.150 g, 0.77 mmol) and sodium triacetoxyborohydride (0.300 g, 1.4 mmol) were added to a solution of 3-oxo-cyclobutanecarboxylic acid ethyl ester (0.100 g, 0.700 mmol) and acetic acid/THF (10%, 4.4 mL), stirred at room temperature for 72 hours and concentrated in vacuo. The resulting residue was dissolved in dichloromethane, washed with water, saturated NaHCO3 and brine, dried (Na2SO4) and concentrated in vacuo to give crude product. Purification by flash chromatography (silica, 1:9-3:7 EtOAc:hexanes) provided the title compound (0.180 g, 73% yield, 10:1 cis:trans ratio) as a solid.

reactant | Dibenzyl amine | 0.77 mmol, 0.150 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | sodium triacetoxyborohydride | 1.4 mmol, 0.300 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 3-oxo-cyclobutanecarboxylic acid ethyl ester | 0.700 mmol, 0.100 g | C(C)OC(=O)C1CC(C1)=O | C7H10O3
solvent | acetic acid THF | 4.4 mL | C(C)(=O)O.C1CCOC1
product | 3-Dibenzylamino-cyclobutanecarboxylic acid ethyl ester | 0.180 g, 73% yield | C(C)OC(=O)C1CC(C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C21H25NO2
